US07317125B2
Preparation of 4-(2-methoxy-ethoxy)-benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide
A solution of (2-bromo-4-fluoro-phenoxy)-acetic acid (164 mg, 0.66 mmol) and 4-(2-methoxy-ethoxy)-benzoic acid-N′-isopropyl hydrazide (200 mg, 0.79 mmol) in DMF (5 ml) was treated with diisopropylethyl amine (0.29 mL, 1.65 mmol) and PyBroP (462 mg, 0.99 mmol) at room temperature overnight. The reaction mixture was partitioned between 1N HCl and ethyl acetate. The organic layer was successively washed with water and brine, then dried over sodium sulfate, filtered and concentrated. The crude was absorbed on silica and purified on a silica gel column with a 45-60% ethyl acetate/hexanes gradient to afford the product as a solid (202 mg, 63%).

reactant | (2-bromo-4-fluoro-phenoxy)-acetic acid | 0.66 mmol, 164 mg | BrC1=C(OCC(=O)O)C=CC(=C1)F | C8H6BrFO3
reactant | 4-(2-methoxy-ethoxy)-benzoic acid-N′-isopropyl hydrazide | 0.79 mmol, 200 mg | C(C)(C)NNC(C1=CC=C(C=C1)OCCOC)=O | C13H20N2O3
reactant | diisopropylethyl amine | 1.65 mmol, 0.29 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | PyBroP | 0.99 mmol, 462 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)Br.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(2-methoxy-ethoxy)-benzoic acid N′-[2-(2-bromo-4-fluoro-phenoxy)-acetyl]-N′-isopropyl-hydrazide | 202 mg, 63% | BrC1=C(OCC(=O)N(NC(C2=CC=C(C=C2)OCCOC)=O)C(C)C)C=CC(=C1)F | C21H24BrFN2O5
